US07820680B2
Step 4: [1-(4-Fluorobenzyl)-4-(benzyloxycarbonyl)-6-oxo-piperazin-2-yl]acetic acid
To a solution of ethyl [1-(4-fluorobenzyl)-4-(benzyloxycarbonyl)-6-oxo-piperazin-2-yl]acetate (0.5 g, 1.2 mmol) in tetrahydrofuran (2.3 mL) was added 1N sodium hydroxide (2.3 mL, 2.3 mmol). After 2 h, 1N hydrochloric acid (3 mL) was added. The reaction mixture was partitioned between dichloromethane and brine. The organic phase was dried over sodium sulfate, filtered and concentrated to give the title compound. 1H NMR (400 MHz, CDCl3) δ 7.23-7.38 (m, 7H), 7.01 (t, J=8.6 Hz, 2H), 5.12-5.20 (m, 3H), 4.45-4.53 (m, 1H), 4.22-4.32 (m, 1H), 3.97 (d, J=15.0 Hz, 2H), 3.78-3.83 (m, 1H), 3.04-3.18 (m, 1H), 2.52-2.67 (m, 2H). ES MS (M+1)=401.2.

reactant | ethyl [1-(4-fluorobenzyl)-4-(benzyloxycarbonyl)-6-oxo-piperazin-2-yl]acetate | 1.2 mmol, 0.5 g | FC1=CC=C(CN2C(CN(CC2=O)C(=O)OCC2=CC=CC=C2)CC(=O)OCC)C=C1 | C23H25FN2O5
reactant | sodium hydroxide | 2.3 mmol, 1N, 2.3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 3 mL | Cl | ClH
solvent | tetrahydrofuran | 2.3 mL | O1CCCC1 | C4H8O
product | [1-(4-Fluorobenzyl)-4-(benzyloxycarbonyl)-6-oxo-piperazin-2-yl]acetic acid | FC1=CC=C(CN2C(CN(CC2=O)C(=O)OCC2=CC=CC=C2)CC(=O)O)C=C1 | C21H21FN2O5
